US04730006
2,2-difluoro-1-benzyloxy-5-methoxypentane (31)
Excess methyl iodide (17 g, 120 mmoles) is added to the alcoholate previously prepared from 2,2-difluoro-1-benzyloxy-5-hydroxypentane (9.8 g, 42.6 mmoles) and potassium t-butoxide (5.6 g, 50 mmoles) in dry tetrahydrofuran (50 ml). The reaction mixture is kept at room temperature overnight, concentrated under vacuum, and the residue is deluted with water and ether. Usual extraction gives the title compound which is purified by chromatography on silica (ethyl acetate/petroleum ether: 20/80, RF: 0.9; 7.4 g, 71%).

reactant | methyl iodide | 120 mmoles, 17 g | CI | CH3I
reactant | 2,2-difluoro-1-benzyloxy-5-hydroxypentane | 42.6 mmoles, 9.8 g | FC(COCC1=CC=CC=C1)(CCCO)F | C12H16F2O2
reactant | potassium t-butoxide | 50 mmoles, 5.6 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2-difluoro-1-benzyloxy-5-methoxypentane | FC(COCC1=CC=CC=C1)(CCCOC)F | C13H18F2O2
